US07737166B2
7-Fluoro-5-methyl-2-(1-methyl-1H-pyrrol-2-yl)-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-166)
Tributylstannyl-1-methylpyrrole (389 mg, 1.05 mmol), bis(triphenylphosphine)palladium(II) dichloride (49 mg, 0.07 mmol), and a catalytic amount of 2,6-di-tert-butylcresol (2 mg) were added to a toluene (20 ml) solution of 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (200 mg, 0.70 mol), followed by stirring under heat under nitrogen atmosphere for 3 hours. After cooling, the reaction liquid was filtered, and the solvent of the filtrate was evaporate away under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and eluted with a mixed solvent of n-hexane/ethyl acetate (9:1, v/v→5:1, v/v) to obtain a main product. After washing with isopropyl ether, the entitled compound (50 mg, 22%) was collected by filtration as a pale yellow solid.

reactant | Tributylstannyl-1-methylpyrrole | 1.05 mmol, 389 mg | C(CCC)[Sn](CCCC)(CCCC)C=1N(C=CC1)C
reactant | 2,6-di-tert-butylcresol | 2 mg | C(C)(C)(C)C1(CC=CC(=C1O)C(C)(C)C)C | C15H26O
reactant | 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.70 mol, 200 mg | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.07 mmol, 49 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Fluoro-5-methyl-2-(1-methyl-1H-pyrrol-2-yl)-6-phenyl-1,3-benzoxazole-4-carbonitrile | FC=1C(=C(C(=C2N=C(OC21)C=2N(C=CC2)C)C#N)C)C2=CC=CC=C2 | C20H14FN3O
